US07332508B2
1-(1-Ethylpropyl)-4-{[5-(3-trifluoromethylphenyl)[1,2,4]oxadiazol-3-yl]methyl}piperidine, Hydrochloride
The title compound was prepared by a similar procedure to that described in Example 12, starting from 2-((1-ethylpropyl)piperidin-4-yl)-N-hydroxyacetamidine and 3-trifluoromethylbenzoyl chloride.

reactant | 2-((1-ethylpropyl)piperidin-4-yl)-N-hydroxyacetamidine | C(C)C(CC)N1CCC(CC1)CC(=N)NO | C12H25N3O
reactant | 3-trifluoromethylbenzoyl chloride | FC(C=1C=C(C(=O)Cl)C=CC1)(F)F | C8H4ClF3O
product | 1-(1-Ethylpropyl)-4-{[5-(3-trifluoromethylphenyl)[1,2,4]oxadiazol-3-yl]methyl}piperidine, Hydrochloride | Cl.C(C)C(CC)N1CCC(CC1)CC1=NOC(=N1)C1=CC(=CC=C1)C(F)(F)F | InChI=1S/C20H26F3N3O.ClH/c1-3-17(4-2)26-10-8-14(9-11-26)12-18-24-19(27-25-18)15-6-5-7-16(13-15)20(21,22)23;/h5-7,13-14,17H,3-4,8-12H2,1-2H3;1H
